US09290468B2
Step 7: methyl 4-amino-3-fluoro-2-((2-fluorophenyl)amino)-5-mercaptobenzoate
To a solution of methyl 4-amino-3-fluoro-2-((2-fluorophenyl)amino)-5-((4-methoxybenzyl)thio)benzoate (9.79 g, 22.7 mmol) in anisole (12 mL) was added CF3COOH (20 mL). After stirring at ambient temperature for 23 h, the solvent was removed in vacuo. To the residue was added water (30 mL). The mixture was neutralized with 25% aqueous ammonia and extracted with ethyl acetate (100 mL×3). The combined organic layer was washed with water (100 mL×3) and brine (100 mL) sequentially, dried over Na2SO4, filtered and concentrated to give the desired product (white solid, 5.28 g, 75% yield). The product was used directly in the next step without further purification.

reactant | methyl 4-amino-3-fluoro-2-((2-fluorophenyl)amino)-5-((4-methoxybenzyl)thio)benzoate | 22.7 mmol, 9.79 g | NC1=C(C(=C(C(=O)OC)C=C1SCC1=CC=C(C=C1)OC)NC1=C(C=CC=C1)F)F | C22H20F2N2O3S
reactant | CF3COOH | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | anisole | 12 mL | C1(=CC=CC=C1)OC | C7H8O
product | methyl 4-amino-3-fluoro-2-((2-fluorophenyl)amino)-5-mercaptobenzoate | 5.28 g, 75% yield | NC1=C(C(=C(C(=O)OC)C=C1S)NC1=C(C=CC=C1)F)F | C14H12F2N2O2S
